* C:\Users\ASXAIVA\OneDrive\Desktop\CLASS D.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N008 N002 N005 N010 N008 N009 N005 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
X§U2 N007 TRIANGLE N005 0 TRIANGLE level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C1 TRIANGLE N006 10nF
V1 N006 0 SINE(0 0.5 1k)
R1 N005 N007 100k
R2 N007 0 100k
R3 N009 N005 1k
R4 N008 N009 3.3k
C2 N008 0 1nF
C3 N010 0 10nF
R5 N002 TRIANGLE 1k
C4 TRIANGLE 0 10nF
R6 N002 TRIANGLE 100
Q1 0 N002 GATE 0 NPN
Q2 N004 N002 GATE 0 PNP
V2 N004 0 12
M1 N001 GATE Switching Switching PMOS
M2 Switching GATE 0 0 NMOS
V3 N001 0 24
L1 Switching N003 33µH Rser=1m
C5 N003 0 0.47µF
R7 AUDIO_OUT N003 8
C6 AUDIO_OUT 0 0.47µF
R8 TRIANGLE 0 100k
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASXAIVA\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ASXAIVA\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20m
* We are getting audio output\nNow we will check on what LC filter done to minimize
* BLUE ONE IS ALSO OUTPUT BUT WITHOUT FILTER\nGREEN ONE IS REFINED OUTPUT
* GATE IS STABLE
* TRIANGLE WAVES are not that visible\nso we will cross check circuit
* NOW wew are getting perfect triangular waves
* AS you can can TRrangular waves are highly noisy and output also \nred are output audio\ngreen are refined and filtered audio output
* filterd cuttoff frequency in 300-400 as we wanted\n1 fundamental frequency near 200khz
* since our circuit is electrically workingg we will start designing in kicad
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\ASXAIVA\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\ASXAIVA\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
